US05596002
(7-Chloro-quinolin-4-yl)-(3-pyrrolidin-1-yl-propyl)-amine
3.08 g from 7.72 g of 4,7-dichloroquinoline and 5 g of 3-(pyrrolidin-1-yl)-propylamine (reaction duration 16 hours at 140° C.); the base was converted with isopropanolic hydrochloric acid into the dihydrochloride which when recrystallized from acetonitrile/ethanol, yielded colourless crystals, m.p.: 204°-206° C.

reactant | 4,7-dichloroquinoline | 7.72 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 3-(pyrrolidin-1-yl)-propylamine | 5 g | N1(CCCC1)CCCN | C7H16N2
reactant | hydrochloric acid | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | (7-Chloro-quinolin-4-yl)-(3-pyrrolidin-1-yl-propyl)-amine | ClC1=CC=C2C(=CC=NC2=C1)NCCCN1CCCC1 | C16H20ClN3
